US06372759B1
B) N1-[[1-(4-Pyridyl)piperidin-4-yl]methoxycarbonyl]-1,2-benzenediamine
A solution of 2-nitro-N-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]aniline (7.55 g, 21.2 mmol) and 5% Pd/C (4.00 g) in ethanol was placed under an atmosphere of hydrogen (1 atm). After consumption of the starting material was indicated by tlc (16-20 h), the mixture was filtered through diamotaceous earth using hot ethyl acetate to wash the filter cake. Concentration of the filtrate yielded 6.58 g (96%) of the title compound.

reactant | 2-nitro-N-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl]aniline | 21.2 mmol, 7.55 g | [N+](=O)([O-])C1=C(NC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C=CC=C1 | C18H20N4O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 4.00 g | [Pd] | Pd
product | N1-[[1-(4-Pyridyl)piperidin-4-yl]methoxycarbonyl]-1,2-benzenediamine | 6.58 g, 96% | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NC=1C(=CC=CC1)N | C18H22N4O2
